US04304728
4-[2-(4-Oxo-6-phenyl-4H-pyran-2-yl)ethenyl]benzoic acid
2-Methyl-6-phenyl-4H-pyran-4-one (3.7 g) and 4-carboxybenzaldehyde (3.0 g) were added to a stirred solution of sodium ethoxide prepared by dissolving sodium (1.0 g) in ethanol (75 ml) and the mixture was heated under reflux for an hour, cooled and acidified with 2 M hydrochloric acid (25 ml). The resulting solid was recrystallised from acetic acid and then from dimethylformamide-water to give the pale yellow title product (mp >300° C.).

reactant | 2-Methyl-6-phenyl-4H-pyran-4-one | 3.7 g | CC=1OC(=CC(C1)=O)C1=CC=CC=C1 | C12H10O2
reactant | 4-carboxybenzaldehyde | 3.0 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.0 g | [Na] | Na
reactant | hydrochloric acid | 2 M, 25 ml | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-[2-(4-Oxo-6-phenyl-4H-pyran-2-yl)ethenyl]benzoic acid | O=C1C=C(OC(=C1)C1=CC=CC=C1)C=CC1=CC=C(C(=O)O)C=C1 | C20H14O4
